US04124603
A mixture of 20 g (0.063 mole) of 2-bromo-3-phenyl-5-benzofurancarboxylic acid and 1.25 1 of acetic acid is stirred and heated to 55° C. To this mixture is added 7.7 g (0.094 mole) of cyclohexene. To this mixture is added dropwise 8.7 g (0.094 mole) of dinitrogen tetroxide in 25 ml of acetic acid. After 5 hours the mixture is poured into cold water and the solid product is collected. Recrystallization from aqueous ethanol followed by recrystallization from a benzene-ethanol mixture provides 2-nitro-3-phenyl-5-benzofurancarboxylic acid, m.p. 271°-273° C.

reactant | 2-bromo-3-phenyl-5-benzofurancarboxylic acid | 0.063 mole, 20 g | BrC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)C(=O)O | C15H9BrO3
reactant | cyclohexene | 0.094 mole, 7.7 g | C1=CCCCC1 | C6H10
reactant | dinitrogen tetroxide | 0.094 mole, 8.7 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
reactant | water | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-nitro-3-phenyl-5-benzofurancarboxylic acid | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)C(=O)O | C15H9NO5
